* tb_gm_id -- gm/Id and threshold extraction for 3.3 V comparator input devices
*
* Netlist FRAGMENT. The harness supplies the models, the corner .lib
* sections, .temp, the .control block and .end. Parameters provided by the
* harness: vdd_val, vdd_nom, temp_c.
*
* Question this answers (feeds #9, and #14's Monte Carlo calibration): what
* transconductance efficiency does a 3.3 V input pair get for a given tail
* current, and where is the threshold? The prior-art survey in spec/ carries
* V_th ~ 0.7 V as an explicitly-flagged assumption pending this measurement.
*
* METHOD. Every bias point is a diode-connected device held at a FIXED drain
* current by an ideal source, so gm/Id is reported at a stated Id rather than
* at a stated Vgs -- which is the form #9 needs to trade current for gain.
* gm is measured by finite difference against an identically-sized replica
* whose gate sits 1 mV away and whose drain is forced to the same potential:
*
*     gm = (I_replica - I_reference) / 1 mV
*
* This deliberately avoids reading ngspice's internal @m[gm] vector. The
* finite difference is a circuit-level measurement of the same quantity a
* real bench would measure, it cannot be silently broken by a change in how
* the simulator names or exposes internal device parameters, and it works
* identically for the subckt-wrapped devices this PDK ships. 1 mV is small
* against the ~26 mV thermal voltage, so the second-order error is < 0.1 %.
*
* THRESHOLD is extracted by the constant-current definition, V_th = V_gs at
* I_d = 100 nA * (W/L), which is what a foundry datasheet quotes and is
* therefore comparable against one. It is extracted at both L = 1 um and
* L = 0.28 um because short-channel V_th roll-off is large in this process
* and #9 will not use the same length as #10.
*
* Body is tied to source everywhere here: a comparator input pair sits at the
* common-mode voltage with its own well (PMOS) or accepts the body effect
* (NMOS). Reporting the zero-Vsb device parameter keeps this a DEVICE
* characterization; the body effect a specific topology incurs belongs in #9.

vsup vdd 0 dc {vdd_val}

* ===========================================================================
* NMOS, W = 10 um / L = 1 um -- gm/Id over three decades of current.
in_a vdd nn_a dc 0.2u
XNA  nn_a nn_a 0 0 nfet_03v3 w=10u l=1u
vna_g nn_a_g nn_a dc 1m
Ena_d nn_a_dd 0 nn_a 0 1
vna_d nn_a_d nn_a_dd dc 0
XNAR nn_a_d nn_a_g 0 0 nfet_03v3 w=10u l=1u

in_b vdd nn_b dc 1u
XNB  nn_b nn_b 0 0 nfet_03v3 w=10u l=1u
vnb_g nn_b_g nn_b dc 1m
Enb_d nn_b_dd 0 nn_b 0 1
vnb_d nn_b_d nn_b_dd dc 0
XNBR nn_b_d nn_b_g 0 0 nfet_03v3 w=10u l=1u

in_c vdd nn_c dc 10u
XNC  nn_c nn_c 0 0 nfet_03v3 w=10u l=1u
vnc_g nn_c_g nn_c dc 1m
Enc_d nn_c_dd 0 nn_c 0 1
vnc_d nn_c_d nn_c_dd dc 0
XNCR nn_c_d nn_c_g 0 0 nfet_03v3 w=10u l=1u

in_d vdd nn_d dc 100u
XND  nn_d nn_d 0 0 nfet_03v3 w=10u l=1u
vnd_g nn_d_g nn_d dc 1m
End_d nn_d_dd 0 nn_d 0 1
vnd_d nn_d_d nn_d_dd dc 0
XNDR nn_d_d nn_d_g 0 0 nfet_03v3 w=10u l=1u

* NMOS, W = 10 um / L = 0.28 um at Id = 100 nA * W/L = 3.571 uA
*   -> constant-current threshold at minimum length.
in_e vdd nn_e dc 3.571u
XNE  nn_e nn_e 0 0 nfet_03v3 w=10u l=0.28u

* NMOS comparator-input-pair candidate, W = 40 um / L = 0.5 um at 10 uA/side.
in_p vdd nn_p dc 10u
XNP  nn_p nn_p 0 0 nfet_03v3 w=40u l=0.5u
vnp_g nn_p_g nn_p dc 1m
Enp_d nn_p_dd 0 nn_p 0 1
vnp_d nn_p_d nn_p_dd dc 0
XNPR nn_p_d nn_p_g 0 0 nfet_03v3 w=40u l=0.5u

* ===========================================================================
* PMOS, W = 10 um / L = 1 um -- same current ladder. The current source pulls
* from the node to ground; the PMOS supplies it from vdd.
ip_a np_a 0 dc 0.2u
XPA  np_a np_a vdd vdd pfet_03v3 w=10u l=1u
vpa_g np_a_g np_a dc -1m
Epa_d np_a_dd 0 np_a 0 1
vpa_d np_a_d np_a_dd dc 0
XPAR np_a_d np_a_g vdd vdd pfet_03v3 w=10u l=1u

ip_b np_b 0 dc 1u
XPB  np_b np_b vdd vdd pfet_03v3 w=10u l=1u
vpb_g np_b_g np_b dc -1m
Epb_d np_b_dd 0 np_b 0 1
vpb_d np_b_d np_b_dd dc 0
XPBR np_b_d np_b_g vdd vdd pfet_03v3 w=10u l=1u

ip_c np_c 0 dc 10u
XPC  np_c np_c vdd vdd pfet_03v3 w=10u l=1u
vpc_g np_c_g np_c dc -1m
Epc_d np_c_dd 0 np_c 0 1
vpc_d np_c_d np_c_dd dc 0
XPCR np_c_d np_c_g vdd vdd pfet_03v3 w=10u l=1u

ip_d np_d 0 dc 100u
XPD  np_d np_d vdd vdd pfet_03v3 w=10u l=1u
vpd_g np_d_g np_d dc -1m
Epd_d np_d_dd 0 np_d 0 1
vpd_d np_d_d np_d_dd dc 0
XPDR np_d_d np_d_g vdd vdd pfet_03v3 w=10u l=1u

* PMOS constant-current threshold at minimum length.
ip_e np_e 0 dc 3.571u
XPE  np_e np_e vdd vdd pfet_03v3 w=10u l=0.28u

* PMOS comparator-input-pair candidate, W = 40 um / L = 0.5 um at 10 uA/side.
ip_p np_p 0 dc 10u
XPP  np_p np_p vdd vdd pfet_03v3 w=40u l=0.5u
vpp_g np_p_g np_p dc -1m
Epp_d np_p_dd 0 np_p 0 1
vpp_d np_p_d np_p_dd dc 0
XPPR np_p_d np_p_g vdd vdd pfet_03v3 w=40u l=0.5u
